US06537948B1
To a solution of 0.60 g of 2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenol and 0.50 g of 4-benzyloxy-3-chloro-1,2,5-thiadiazole in 8 ml of dimethyl sulfoxide, 0.25 g of potassium carbonate was added, and stirred for 30 minutes at 50° C., and for 3 hours at 100° C. The reaction solution was poured into dilute hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with water, then, saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.27 g of 4-benzyloxy-3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-1,2,5-thiadiazole (purity: 44%)

reactant | 2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenol | 0.60 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)O | C12H7ClF4N2O3
reactant | 4-benzyloxy-3-chloro-1,2,5-thiadiazole | 0.50 g | C(C1=CC=CC=C1)OC=1C(=NSN1)Cl | C9H7ClN2OS
reactant | potassium carbonate | 0.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 8 ml | CS(=O)C | C2H6OS
product | 4-benzyloxy-3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-1,2,5-thiadiazole | 0.27 g | C(C1=CC=CC=C1)OC=1C(=NSN1)OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C21H13ClF4N4O4S
